US05869495
2-Methoxy-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]-phenyl]propanonitrile
Trimethylsilyl cyanide (3.4 mL) was added dropwise to a solution of 1,1-dimethoxy-2-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]ethane (2.64 g) in dichloromethane (70 mL) at room temperature. The mixture was stirred during the addition of boron trifluoride etherate (0.3 mL), and stirring continued at room temperature for 1.5 hrs. prior to the addition of a further portion of boron trifluoride etherate (1 mL). After a further 2 hours the mixture was diluted with dichloromethane (100 mL) and washed with saturated sodium bicarbonate solution (2×300 mL), water (2×300 mL) and brine (300 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 1% methanol in dichloromethane as eluent to afford the title compound, a gum, which was used without further purification.

reactant | Trimethylsilyl cyanide | 3.4 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | 1,1-dimethoxy-2-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]ethane | 2.64 g | COC(CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C)OC | C18H24N2O3
reactant | boron trifluoride etherate | 0.3 mL | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 1 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Methoxy-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]-phenyl]propanonitrile | COC(C#N)CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C | C18H21N3O2
